US07709509B2
3.0 g 4-Butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole were dissolved in 50 ml acetonitrile. To this solution was added 2.89 g tetrabutylammoniumcyanide. The reaction mixture was stirred at room temperature for thirty minutes. Then a mixture of saturated NaHCO3 solution, ice and ethyl acetate was added. The aqueous phase was separated and extracted three times with portions of 30 ml ethylacetate. The combined organic layers were washed with ice cold water and brine and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by flash chromatography with the eluent n-heptane:ethyl acetate=5:1 to provide 1.1 g [4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetonitrile as oil.

reactant | 4-Butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 3.0 g | C(CCC)C=1N=C(SC1CCl)C1=CC=C(C=C1)C(F)(F)F | C15H15ClF3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | tetrabutylammoniumcyanide | 2.89 g | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
product | [4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetonitrile | 1.1 g | C(CCC)C=1N=C(SC1CC#N)C1=CC=C(C=C1)C(F)(F)F | C16H15F3N2S
